US08877774B2
Step 3. 2-(8-(3-(Azido(phenyl)methyl)phenoxy)octyl)-1,3-dioxolane
To a stirred solution of (3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)-(phenyl)methanol (1.63 g, 4.24 mmol) in toluene (10 mL) under an atmosphere of nitrogen, diphenylphosphoryl azide (1.10 mL, 5.10 mmol) and DBU (0.77 mL, 5.11 mmol) was added. The reaction mixture was stirred at 45° C. for 3 hours and then at RT for 16 hours. The reaction mixture was concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-100% ethyl acetate in iso-hexane to afford impure title compound (1.11 g, 64%). This material was used directly in the next step.

reactant | (3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)-(phenyl)methanol | 4.24 mmol, 1.63 g | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C24H32O4
reactant | diphenylphosphoryl azide | 5.10 mmol, 1.10 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 5.11 mmol, 0.77 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(8-(3-(Azido(phenyl)methyl)phenoxy)octyl)-1,3-dioxolane | 1.11 g, 64% | N(=[N+]=[N-])C(C=1C=C(OCCCCCCCCC2OCCO2)C=CC1)C1=CC=CC=C1 | C24H31N3O3
